US06794385B2
To a stirred suspension of tert-butyl 2-(2-methoxy-2-oxoethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate (5.3 g, 17.3 mmol) in toluene (50 mL) 1,4-cyclohexandione (2.8 g, 25 mmol) and p-toluenesulfonic acid (1 g) were added. The resulting solution was stirred at reflux for 4 hours, using a condenser equipped with a Dean-Stark apparatus. The reaction mixture was concentrated in vacuo. The remaining oil was purified by flash chromatography on silica gel column eluting with ethyl acetate to give 2-(2-methoxy-2-oxoethyl)-4-phenyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid (2.9 g, 52%) as a white solid.

reactant | tert-butyl 2-(2-methoxy-2-oxoethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylate | 17.3 mmol, 5.3 g | COC(CC1OC2=C(NC1)C=C(C=C2)C(=O)OC(C)(C)C)=O | C16H21NO5
reactant | toluene | 25 mmol, 50 mL, 2.8 g | C1(=CC=CC=C1)C | C7H8
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(2-methoxy-2-oxoethyl)-4-phenyl-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | 2.9 g, 52% | COC(CC1OC2=C(N(C1)C1=CC=CC=C1)C=C(C=C2)C(=O)O)=O | C18H17NO5
